US07595405B2
Step 2 4′-Methyl-5-(5-methyl-tetrazol-1-yl)-biphenyl-3-carboxylic acid methyl ester
A mixture of tetrachlorosilane (10.07 mmol, 2 mL), NaN3 (30.21 mmol, 1.96 g) and 5-acetylamino-4′-methyl-biphenyl-3-carboxylic acid methyl ester (3.36 mmol, 950.9 mg) in 10 ml of dry acetonitrile was stirred at room temperature for 16 hours. The reaction mixture were poured into ice-cold aqueous Na2CO3 solution and extracted with ethyl acetate (100 mL). The organic layer was washed with brine, dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The resulting crude 4′-methyl-5-(5-methyl-tetrazol-1-yl)-biphenyl-3-carboxylic acid methyl ester was used for next step directly (880 mg, 85% yield).

reactant | tetrachlorosilane | 10.07 mmol, 2 mL | Cl[Si](Cl)(Cl)Cl | Cl4Si
reactant | NaN3 | 30.21 mmol, 1.96 g | [N-]=[N+]=[N-].[Na+]
reactant | 5-acetylamino-4′-methyl-biphenyl-3-carboxylic acid methyl ester | 3.36 mmol, 950.9 mg | COC(=O)C=1C=C(C=C(C1)NC(C)=O)C1=CC=C(C=C1)C | C17H17NO3
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 4′-Methyl-5-(5-methyl-tetrazol-1-yl)-biphenyl-3-carboxylic acid methyl ester | 85% yield | COC(=O)C=1C=C(C=C(C1)N1N=NN=C1C)C1=CC=C(C=C1)C | C17H16N4O2
